US07342131B2
To a mixture of cyclohexanol (10.9 g, 10.9 mmol), pyridine (8.62 g, 10.9 mmol) in dichloromethane was added 2-bromopropionyl chloride (18.53 g, 10.9 mmol) at 0° C. The resulting mixture was stirred at room temperature for 1 hr. The product was partitioned between hexane and 10% citric acid. The organic phase was separated, dried over MgSO4 and concentrated to yield 2-bromo-propionic acid cyclohexyl ester, which was used in the following reaction without further purification.

reactant | cyclohexanol | 10.9 mmol, 10.9 g | C1(CCCCC1)O | C6H12O
reactant | pyridine | 10.9 mmol, 8.62 g | N1=CC=CC=C1 | C5H5N
reactant | 2-bromopropionyl chloride | 10.9 mmol, 18.53 g | BrC(C(=O)Cl)C | C3H4BrClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-propionic acid cyclohexyl ester | C1(CCCCC1)OC(C(C)Br)=O | C9H15BrO2
